US06017675
α-(4-Methoxyphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide
As described under 1.2., 10.3 g (0.05 mol) of α-hydroxyimino-3,4-dimethoxybenzyl cyanide are reacted with 11.37 g (0.055 mol) of 4-methoxyphenylsulfonic acid chloride in the presence of 7.6 g of triethylamine. After recrystallisation of the crude product from ethyl acetate/hexane, 3.26 g (17%) of α-(4-methoxy-phenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide are obtained in the form of yellowish crystals having a melting point of 161-167° C. The 1H-NMR spectrum of the compound shows that it is a pure stereoisomer. The UV spectrum (acetonitrile) of the substance shows a broad absorption band with a maximum at 349 nm (ε=11700) that extends to 435 nm. Elemental analysis: C17H16N2O6S (376.38)

reactant | α-hydroxyimino-3,4-dimethoxybenzyl cyanide | 0.05 mol, 10.3 g | ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C10H10N2O3
reactant | 4-methoxyphenylsulfonic acid chloride | 0.055 mol, 11.37 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | 7.6 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | α-(4-Methoxyphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide | COC1=CC=C(C=C1)S(=O)(=O)ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C17H16N2O6S
